US05726195
To a solution of 4-ethynylbenzonitrile (0.5 g), 2-bromo-5-nitrothiophene (0.9 g) and bis(triphenylphosphine)palladium dichloride (83 mg) in anhydrous dimethylformamide (4 ml) was added triethylamine (2.2 ml). The reaction mixture was stirred at room temperature for 3 days then ethyl acetate (200 ml) and saturated sodium chloride (200 ml) were added. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to dryness. The crude solid was triturated with 1:1 dichloromethane/hexane followed by diethyl ether to give 4-[(5-nitro-2-thienyl)ethynyl]benzonitrile as a yellow solid.

reactant | 4-ethynylbenzonitrile | 0.5 g | C(#C)C1=CC=C(C#N)C=C1 | C9H5N
reactant | 2-bromo-5-nitrothiophene | 0.9 g | BrC=1SC(=CC1)[N+](=O)[O-] | C4H2BrNO2S
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 83 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-[(5-nitro-2-thienyl)ethynyl]benzonitrile | [N+](=O)([O-])C1=CC=C(S1)C#CC1=CC=C(C#N)C=C1 | C13H6N2O2S
